US05418248
2-(5-methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetic acid.
23.8 g (0.067 mole) of N,N-dimethyl-2-(5-methylthien-2-yl) imidazo[2,1-b]benzothiazole-3-acetamide and 450 ml of 2-methoxyethanol are introduced into a 1 liter round-bottomed flask, and the mixture is stirred and it is heated on an oil bath at around 130° C. until the solid dissolves. A solution of 13.4 g (0.335 mole) of sodium hydroxide pellets in 70 ml of water is added hot, with precaution, then after 30 minutes, a further 13.4 g (0.335 mole) of sodium hydroxide pellets in 70 ml of water, and the heating is maintained for 7 h 30 min, while monitoring the progress of the reaction by thin-layer chromatography. The mixture is cooled to around 20° C., the solvent is evaporated under reduced pressure, without exceeding 60° C. 1200 ml of water are added to the residue, an insoluble matter is removed by filtration, 150 ml of acetic acid are added to the filtrate up to a pH=4. A yellow-coloured precipitate is obtained which is stirred for 30 minutes while cooling to around 5° C. The solid is separated by filtration, it is washed with water and then with diethyl ether, and it is dried under vacuum at around 60° C. 17.5 g of compound are obtained of which 1.65 g (0.005 mole) are purified by recrystallization from 250 ml of boiling methanol. 1.1.g of a light yellow-coloured solid are isolated. Melting point: 255°-259° C.

reactant | N,N-dimethyl-2-(5-methylthien-2-yl) imidazo[2,1-b]benzothiazole-3-acetamide | 0.067 mole, 23.8 g | CN(C(CC1=C(N=C2SC3=C(N21)C=CC=C3)C=3SC(=CC3)C)=O)C | C18H17N3OS2
reactant | 2-methoxyethanol | 450 ml | COCCO | C3H8O2
reactant | sodium hydroxide | 0.335 mole, 13.4 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.335 mole, 13.4 g | [OH-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | 2-(5-methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetic acid | 17.5 g | CC1=CC=C(S1)C=1N=C2SC3=C(N2C1CC(=O)O)C=CC=C3 | C16H12N2O2S2
